US06949542B2
8-Fluoro-4-(3-pyridin-4-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {4-fluoro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester (Example M5) (245 mg, 0.75 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (145 mg).

reactant | {4-fluoro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | 0.75 mmol, 245 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C25H24FN3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Fluoro-4-(3-pyridin-4-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC=NC=C2)=O)C1 | C20H14FN3O
